Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:4]([C:5]#[C:6][H:7])[O:8][H:9].[H:1][C:2]=[O:3]>>[H:1][C:2][O:3][C:4]([C:5]#[C:6][H:7])[O:8][H:9],-0.34935954236
[H:1][C:2]#[C:3][C:4]([O:5][H:6])[C:7]([H:8])([H:9])[H:10]>>[H:1][C:2][C:3]#[C:4][C:7]([H:8])([H:9])[H:10].[O:5][H:6],5.983138632490001
[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18].[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[H:8]>>[H:1][C:2]([H:3])=[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18],-4.3303853488699975
[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7],3.32902708663
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13]>>[C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13].[H:1][O:2],5.3259018032
[O:1]=[C:2]([H:3])[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])[H:12]>>[C:10]([H:11])[H:12].[O:1]=[C:2]([H:3])[C:4]([H:5])[O:6][C:7]([H:8])[H:9],4.72566789809
[O:1]=[C:2]=[C:3]([C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[H:10]>>[C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[H:10].[O:1]=[C:2],1.31786638093
[H:1][C:2][O:3][C:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12]>>[C:10]([H:11])[H:12].[H:1][C:2][O:3][C:4][C:5]([H:6])([H:7])[C:8][H:9],8.89844415927
[H:3].[O:1]=[C:2]=[C:4]([H:5])[C:6]([H:7])([H:8])[H:9]>>[O:1]=[C:2]([H:3])[C:4]([H:5])[C:6]([H:7])([H:8])[H:9],-2.12853969345
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10]>>[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:7]([H:8])([H:9])[H:10].[H:6],3.0264160921
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])=[C:15]([H:16])[H:17]>>[H:12].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[C:13]([H:14])=[C:15]([H:16])[H:17],3.74668150441
[H:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:8][C:9]([H:10])[C:11]([H:12])([H:13])[H:14].[H:7]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:8]=[C:9]([H:10])[C:11]([H:12])([H:13])[H:14],-4.026234164180003
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]#[C:8][C:9]([H:10])([H:11])[H:12]>>[H:1].[O:2]=[C:3][C:4]([H:5])([H:6])[C:7]#[C:8][C:9]([H:10])([H:11])[H:12],1.7588179615
[H:1][O:2][O:3][C:4]([H:5])=[C:6]([H:7])[H:8]>>[C:4]([H:5])=[C:6]([H:7])[H:8].[H:1][O:2][O:3],3.5127801591300005
[H:1][C:2]=[C:3]([H:4])[O:5]/[C:6]([H:7])=[C:8](\[H:9])[O:10][H:11]>>[C:8]([H:9])[O:10][H:11].[H:1][C:2]=[C:3]([H:4])[O:5][C:6][H:7],5.47989731248
[C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14].[H:1]>>[H:1][C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14],-3.94071442206
[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[O:1],8.19010923
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])/[C:9]([H:10])=[C:11](\[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][O:2][C:3]([H:4])[C:6]([H:7])([H:8])/[C:9]([H:10])=[C:11](\[H:12])[C:13]([H:14])([H:15])[H:16].[H:5],4.0254804858999975
[H:1][C:2][O:3][C:4][C:5]([H:6])([H:7])[C:8]#[C:9][H:10]>>[H:1][C:2].[O:3]=[C:4][C:5]([H:6])([H:7])[C:8]#[C:9][H:10],2.15638001956
[H:1][O:2]/[C:3]=[C:4]1/[C:5][O:6][C:7]1([H:8])[H:9]>>[H:1][O:2][C:3][C:4]1[C:5]2[O:6][C@:7]12[H:8].[H:9],3.93782704317
[H:1].[O:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]=[C:12]([H:13])[H:14]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]=[C:12]([H:13])[H:14],-1.5283437517299998
[C:1]#[C:2].[C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[H:10]>>[C:1]#[C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[H:10],-4.87886795562
[H:7].[O:1][C:2]([H:3])([H:4])[C:5]#[C:6]>>[O:1][C:2]([H:3])([H:4])[C:5]#[C:6][H:7],-6.56137657984
[H:12].[O:1]=[C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])[H:11]>>[O:1]=[C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],-4.50697238729
[C:4]([H:5])[C:6]([H:7])([H:8])[C:9][O:10][C:11]([H:12])([H:13])[H:14].[H:1][C:2][H:3]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9][O:10][C:11]([H:12])([H:13])[H:14],-8.794890788
[H:1].[O:2][O:3][C:4]([H:5])([H:6])[H:7]>>[H:1][O:2][O:3][C:4]([H:5])([H:6])[H:7],-3.7136931225
[H:10].[H:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[C:8]([H:9])[O:11][H:12]>>[H:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][H:12],-4.2354653093
[H:13].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C@:7]1([H:8])[C:9][O:10][C:11]1[H:12]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C@:7]1([H:8])[C:9][O:10][C:11]1([H:12])[H:13],-4.473511898
[C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14].[H:1][O:2]>>[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14],-6.226835790009999
[C:5]#[C:6][H:7].[O:1][C:2]#[C:3][H:4]>>[O:1]=[C:2]=[C:3]([H:4])[C:5]#[C:6][H:7],-5.912684969319999
